US05912246
Imidazopyridine salt E-3 is prepared from aminopyridine E-1 (also D-1) (refer to Chart D) (commercial source) or the amino pyridine A-2 (refer to Chart A) and dihaloacetone E-2 (Aldrich) either by a two-step procedure whereby E-1 and E-2 are stirred in a solvent such as dimethoxyethane with or without the addition of a base such as triethylamine or potassium carbonate to give imidazopyridine salt E-3. If dimethoxyethane alone is used as solvent, it is then replaced with alcoholic solvent and E-3 is heated until no additional E-4 is formed.

reactant | aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | dimethoxyethane | C(OC)COC | C4H10O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | imidazopyridine | N1C=NC2=C1C=CC=N2 | C6H5N3
